US07179823B1
Lithium aluminium hydride (1.45 g) was added to a solution of ethyl 5-phenyl-3-pyridinecarboxylate (8.60 g) in tetrahydrofuran (100 ml) at 0° C., which was stirred at room temperature for 30 minutes. Sodium sulfate decahydrate (13.40 g) was added to the reaction mixture, which was stirred at room temperature for 30 minutes. The precipitate was removed by filtration, and the filtrate was concentrated. The resulting colorless crystals were collected by filtration to obtain 5-phenyl-3-pyridylmethanol (4.82 g, yield 69%). This was recrystallized from ethyl acetate-hexane. Melting point: 71–72° C.

reactant | Lithium aluminium hydride | 1.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 5-phenyl-3-pyridinecarboxylate | 8.60 g | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)OCC | C14H13NO2
reactant | Sodium sulfate decahydrate | 13.40 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-phenyl-3-pyridylmethanol | 4.82 g, yield 69% | C1(=CC=CC=C1)C=1C=C(C=NC1)CO | C12H11NO
